US07071340B2
84 mg (0.62 mmol) of 4-methylmorpholine N-oxide monohydrate and 207 mg of 4 Å molecular sieve are added to 92 mg (0.415 mmol) of [3-(chloromethylene)-2,3-dihydro-1-benzoxepin-7-yl]methanol, prepared according to example 71, in solution in 1 ml of dichloromethane. 14.6 mg (0.041 mmol) of tetrapropylammonium perruthenate are added to the suspension at 0° C. After stirring at ambient temperature for 1 hour, the reaction medium is purified by chromatography on silica gel (ethyl acetate/heptane 30/70) to give 70 mg (76%) of 3-(chloromethylene)-2,3-dihydro-1-benzoxepin-7-carbaldehyde in the form of a mixture of 2 Z/E isomers in an 85/15 ratio; 1H NMR (300 MHz, CDCl3) Z isomer: 4.90 (s, 2H), 6.41 (m, 3H), 7.14 (d, J=8.3 Hz, 1H), 7.70 (dd, J=8.3 and 2 Hz, 1H), 7.75 (d, J=2.07 Hz, 1H), 9.91 (s, 1H).

reactant | 4-methylmorpholine N-oxide monohydrate | 0.62 mmol, 84 mg | O.C[N+]1(CCOCC1)[O-]
reactant | [3-(chloromethylene)-2,3-dihydro-1-benzoxepin-7-yl]methanol | 0.415 mmol, 92 mg | ClC=C1COC2=C(C=C1)C=C(C=C2)CO | C12H11ClO2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
catalyst | tetrapropylammonium perruthenate | 0.041 mmol, 14.6 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 3-(chloromethylene)-2,3-dihydro-1-benzoxepin-7-carbaldehyde | 70 mg, 76% | ClC=C1COC2=C(C=C1)C=C(C=C2)C=O | C12H9ClO2
